US05223536
A mixture of 6.5 grams (0.03 mole) of pyridinium chlorochromate in 25 ml of methylene chloride was stirred, and a solution of 2.1 grams (0.03 mole) of 3-cyclopropyl-3-(4-chlorophenyl)propan-1-ol in 5 ml of methylene chloride was quickly added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for one hour. The reaction mixture was then diluted with 100 ml of diethyl ether, and this mixture was filtered through a pad of activated magnesium silicate. The filtrate was concentrated under reduced pressure, yielding 1.5 grams of 3-cyclopropyl-3-(4-chlorophenyl)propionaldehyde.

reactant | pyridinium chlorochromate | 0.03 mole, 6.5 grams | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 3-cyclopropyl-3-(4-chlorophenyl)propan-1-ol | 0.03 mole, 2.1 grams | C1(CC1)C(CCO)C1=CC=C(C=C1)Cl | C12H15ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-cyclopropyl-3-(4-chlorophenyl)propionaldehyde | 1.5 grams | C1(CC1)C(CC=O)C1=CC=C(C=C1)Cl | C12H13ClO
